US08242153B2
b) (E)-(2S)-2-Amino-5-phenyl-hex-4-en-1-ol
To a stirred solution of (4S)-2,2-dimethyl-4-((E)-3-phenyl-but-2-enyl)-oxazolidine-3-carboxylic acid tert-butyl ester (1.15 g) in dioxane (10 ml) at room temperature was added a 4 M solution of hydrogen chloride in dioxane (17.4 ml solution) and stirring was continued at room temperature overnight. The mixture was taken up in ethyl acetate and washed sequentially with aqueous sodium hydroxide solution (1 N), water and saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (SiO2, heptane/dichloromethane gradient; eluant containing 1% aq. ammonia) to yield a yellow oil, (185 mg, 28%); MS (ISP): 192.1 ([M+H]+).

reactant | (4S)-2,2-dimethyl-4-((E)-3-phenyl-but-2-enyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 1.15 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C\C=C(/C)\C1=CC=CC=C1)(C)C | C20H29NO3
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 17.4 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-(2S)-2-Amino-5-phenyl-hex-4-en-1-ol | N[C@H](CO)C\C=C(/C)\C1=CC=CC=C1 | C12H17NO
